US04916137
8-(3-Fluorophenyl)-5-[[3-(1H-imidazol-1-yl)propyl]amino]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3-one
To a stirred solution of 10.0 g of 8-(3-fluorophenyl)-4,5-dihydro-5-thioxo-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3one in 300 ml of N,N-dimethylformamide was added 18.75 ml of 1N sodium hydroxide. The reaction mixture was cooled to 0° C. in an ice bath for 30 minutes, then 6.25 ml of 30% hydrogen peroxide was added to the mixture dropwise. The mixture was stirred at 0° C. for one hour and 30 minutes then 12.5 ml of N(3-aminopropyl)imidazole was added in one portion. The mixture was allowed to warm to room temperature over 32 hours. The mixture was filtered to remove the solid which was washed with water. The filtrate and wash was evaporated in vacuo to give a yellow solid. The solid was dissolved in 250 ml of chloroform then 100 ml of water was added to give a precipitate. The layers were separated and the precipitate was collected by filtration to give a white solid. The solid was recrystallized from dimethylsulfoxide and dried in vacuo at 60° C. to give 1.1 g of the product of the example as a white solid, m.p. 256°-258° C.

reactant | 8-(3-fluorophenyl)-4,5-dihydro-5-thioxo-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3one | 10.0 g | FC=1C=C(C=CC1)C1=CCN2C(NC(C=3C=NN1C32)=O)=S | C14H9FN4OS
reactant | sodium hydroxide | 1N, 18.75 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 6.25 ml | OO | H2O2
reactant | N(3-aminopropyl)imidazole | 12.5 ml | NCCCN1C=NC=C1 | C6H11N3
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 8-(3-Fluorophenyl)-5-[[3-(1H-imidazol-1-yl)propyl]amino]-3H,6H-1,4,5a,8a-tetraazaacenaphthylen-3-one | 1.1 g | FC=1C=C(C=CC1)C1=CCN2C(=NC(C=3C=NN1C32)=O)NCCCN3C=NC=C3 | C20H18FN7O
